US04910201
Synthesis of 4-chloro-5-(4-chlorobenzyloxy)-2-(4-chlorophenyl)-3(2H)-pyridazinone (Compound No. 27)
In 70 ml of N,N-dimethylformamide was dissolved 7.1 g (0.028 mol) of 4-chloro-2-(4-chlorophenyl)-5-hydroxy-3(2H)-pyridazinone, and thereto were added 4.5 g of p-chlorobenzyl chloride and 5.4 g of anhydrous potassium carbonate. The resulting reaction mixture was heated under stirring on an oil bath at 120° to 130° C. for 2 hours. After allowing to cool, the reaction mixture was poured into 500 ml of water. The solid thus precipitated was taken out by filtration, washed with water, dried and then recrystallized from an ethyl acetate-benzene mixture to give 6.3 g of the intended compound.

reactant | 4-chloro-2-(4-chlorophenyl)-5-hydroxy-3(2H)-pyridazinone | 0.028 mol, 7.1 g | ClC=1C(N(N=CC1O)C1=CC=C(C=C1)Cl)=O | C10H6Cl2N2O2
reactant | p-chlorobenzyl chloride | 4.5 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | potassium carbonate | 5.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 500 ml | O | H2O
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 4-chloro-5-(4-chlorobenzyloxy)-2-(4-chlorophenyl)-3(2H)-pyridazinone | 6.3 g | ClC=1C(N(N=CC1OCC1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C17H11Cl3N2O2
